US05461158
N-benzyl-4-(1-benzylthio-1-methylethyl)-2-ethylidene-4-butanelactam (compound No.7-2)
To a stirred suspension of zinc dust (0.53 g) activated with hydrochloric acid in THF (20 ml), methyl 2-bromomethylcrotonate (1.50 g) dissolved in THF (10 ml) and N-(2-benzylthio-2-methylpropylidene)benzylamine (2.00 g) dissolved in THF (10 ml) were added dropwise in the order named at about 30° C. under nitrogen atmosphere and ultrasonic irradiation. The mixture was stirred overnight at room temperature. To the mixture saturated aqueous ammonium chloride solution was added. The mixture was filtered by celite. A reaction product was extracted with ethyl acetate from the filtrate. The organic layer was washed with IN hydrochloric acid, water and then saturated sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate and concentrated in vacuo. The oily residue was purified by silica gel column chromatography to give 1.03 g (40%) of the titled compound No.7-1 and 0.48 g (19%) of the titled compound No.7-2.

reactant | hydrochloric acid | Cl | ClH
reactant | methyl 2-bromomethylcrotonate | 1.50 g | BrC/C(/C(=O)OC)=C\C | C6H9BrO2
reactant | N-(2-benzylthio-2-methylpropylidene)benzylamine | 2.00 g | C(C1=CC=CC=C1)SC(C=NCC1=CC=CC=C1)(C)C | C18H21NS
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
catalyst | zinc | 0.53 g | [Zn] | Zn
product | N-benzyl-4-(1-benzylthio-1-methylethyl)-2-ethylidene-4-butanelactam | 0.48 g, 19% | C(C1=CC=CC=C1)N1C(C(CC1C(C)(C)SCC1=CC=CC=C1)=CC)=O | C23H27NOS
